US07553969B1
(3) Synthesis of Z-N-Me-Val-N-Me-Tyr(3-tBu)-NHOMe
To a solution of N-Me-Tyr(3-tBu)-NHOMe (1.24 g, 4.42 mmol), Z-N-Me-Val-OH (1.76 g, 6.63 mmol) and CMPI (1.7 g, 6.63 mmol) in THF (30 ml), TEA (1.23 ml, 8.84 mmol) was added and stirred overnight. The mixture was mixed with water, extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated to remove the solvent under reduced pressure. The thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:1) to give the titled compound (1.32 g, 57%).

reactant | N-Me-Tyr(3-tBu)-NHOMe | 4.42 mmol, 1.24 g | N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NOC)C | C15H24N2O3
reactant | Z-N-Me-Val-OH | 6.63 mmol, 1.76 g | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)O)C | C14H19NO4
reactant | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Z-N-Me-Val-N-Me-Tyr(3-tBu)-NHOMe | 1.32 g, 57% | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NOC)C)C | C29H41N3O6
